US07030200B2
Synthesis of Propiophenone 2-Isopropylphenylimine
2-Isopropylaniline (11.6 mL, 82 mmol, Aldrich) was mixed with propiophenone (10 mL, 74.5 mmol, Aldrich) and p-TsOH (1.4 g, 7.3 mmol, Aldrich). The resulting mixture was heated for 2 h at 200° C. under a slow stream of Ar to remove H2O that formed. After cooling to RT the reaction mixture was poured into hexanes (100 mL), filtered, the precipitate washed with additional hexanes (2×100 mL) followed by the evaporation of the filtrate. The residue was filtered through a 9×4.1 cm plug of silica gel in hexanes/ether 10/1 (300 mL collected). After evaporation of the solvent the residue was distilled in vacuo. The initial fraction contained unreacted starting materials (45–50 C/0.4 mm), in the next fraction the product was collected as an orange oil, bp 125–135 C/0.4 mm, 8.0 g, (42.7%). 1H NMR (CDCl3) 8.03–7.95 (m, 2H); 7.53–7.46 (m, 3H); 7.34 (dd, 1H; J=1.4; 7.6 Hz); 7.21 (dt, 1H; J=1.4; 7.6 Hz); 7.1 (dt, 1H; J=1.4; 7.6 Hz); 6.65 (dd, 1H; J=1.4; 7.6 Hz); 3.00 (septet, 1 H; J=6.9 Hz); 2.67 (q, 2H; J=7.6 Hz); 1.22 (d, 6H; J=6.8 Hz); 1.11 (t, 3 H; J=7.6 Hz).

reactant | 2-Isopropylaniline | 82 mmol, 11.6 mL | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
reactant | propiophenone | 74.5 mmol, 10 mL | C(CC)(=O)C1=CC=CC=C1 | C9H10O
reactant | p-TsOH | 7.3 mmol, 1.4 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | Propiophenone 2-Isopropylphenylimine | C(C)(C)C1=C(C=CC=C1)N=C(CC)C1=CC=CC=C1 | C18H21N
